US09216980B2
6-Oxo-3-(4-piperidin-1-ylmethyl-phenyl)-6,7-dihydro-9H-dipyrido[2,3-b;4′,3′-d]pyrrole
To 6-methoxy-3-(4-piperidin-1-ylmethyl-phenyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole (200 mg, 0.5 mmol) was added HBr (33% in acetic acid, 5 mL) and the reaction was heated at 100° C. for 16 h. The cooled reaction mixture was then evaporated in vacuo to afford a residue that was purified by preparative HPLC [0-30% MeCN in water (0.1% formic acid) over 30 min, 35 mL/min] to afford the title compound as a bright yellow solid (50 mg, 30%). 1H NMR (DMSO-D6, 400 MHz): 11.51 (s, 1H), 8.91-8.74 (m, 2H), 8.28 (s, 1H), 7.72 (d, J=8.2 Hz, 2H), 7.41 (d, J=8.1 Hz, 2H), 7.29 (s, 1H), 6.68-6.44 (s, 1H), 3.48 (s, 2H), 2.36 (s, 4H), 1.51 (m, 4H), 1.40 (m, 2H). LCMS (Method D): RT=4.97 min, M+H+=359.

reactant | 6-methoxy-3-(4-piperidin-1-ylmethyl-phenyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole | 0.5 mmol, 200 mg | COC1=CC=2C3=C(NC2C=N1)N=CC(=C3)C3=CC=C(C=C3)CN3CCCCC3 | C23H24N4O
reactant | HBr | 5 mL | Br | BrH
product | 6-Oxo-3-(4-piperidin-1-ylmethyl-phenyl)-6,7-dihydro-9H-dipyrido[2,3-b;4′,3′-d]pyrrole | 50 mg, 30% | O=C1C=C2C3=C(NC2=CN1)N=CC(=C3)C3=CC=C(C=C3)CN3CCCCC3 | C22H22N4O
